US05254558
To a solution of 2-(5-amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (0.83 g) and triethylamine (0.45 mL) in tetrahydrofuran (10 mL) at 0° C. was added acetyl chloride (0.17 mL) and the resulting solution was allowed to stir for 0.5 h. The mixture was poured into ethyl acetate and the solution was washed (1N hydrochloric acid, water), dried, and evaporated to give 2-(5-acetamido-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide as a foamy solid (0.86 g); TLC: Rf =0.4, methanol:dichloromethane (5:95).

reactant | 2-(5-amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 0.83 g | NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=CC=C1 | C24H35F3N4O3Si
reactant | triethylamine | 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.17 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(5-acetamido-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 0.86 g | C(C)(=O)NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=CC=C1 | C26H37F3N4O4Si
